US07091214B2
The method described in Part J of Example 365 was used to oxidize and aminate 1-(2-methylpropyl)-9-(4-propoxyphenyl)-1H-imidazo[4,5-c]quinoline (1.1 g, 3.1 mmol). The amination reaction was stirred for 36 hours. The crude product was purified by HPFC (eluting with chloroform:CMA in a gradient from 100:0 to 70:30) to provide an oil, which was stirred with acetonitrile to provide a solid. The solid was isolated by filtration and recrystallized from acetonitrile to provide 165 mg of 1-(2-methylpropyl)-9-(4-propoxyphenyl)-1H-imidazo[4,5-c]quinolin-4-amine as light tan needles, mp 181–182° C.

reactant | 1-(2-methylpropyl)-9-(4-propoxyphenyl)-1H-imidazo[4,5-c]quinoline | 3.1 mmol, 1.1 g | CC(CN1C=NC=2C=NC=3C=CC=C(C3C21)C2=CC=C(C=C2)OCCC)C | C23H25N3O
reactant | acetonitrile | C(C)#N | C2H3N
product | 1-(2-methylpropyl)-9-(4-propoxyphenyl)-1H-imidazo[4,5-c]quinolin-4-amine | 165 mg | CC(CN1C=NC=2C(=NC=3C=CC=C(C3C21)C2=CC=C(C=C2)OCCC)N)C | C23H26N4O
